** Spice models for Marantz 2225 system level assembly **

** 120VAC to 24/48VAC Transformer
* Based on Triad Magnetics VPT48-2080
* Transformer spec sheet: https://catalog.triadmagnetics.com/item/power-transformers/toroidal-mount-world-series-power-transformers/vpt48-2080 
* 1 ───┬───┐  ││  ┌────┬─── 5
*      │   │  ││  │    │
*      │   │  ││  │ S1 │
*      │   │  ││  │    │
*      │ P │  ││  ├────├─── 4
*      │   │  ││  │    │
*      │   │  ││  │ S2 │
*      │   │  ││  │    │
* 2 ───┴───┘  ││  └────┴─── 3

.SUBCKT TRANSFORMER_VPT48_2080 1 2 3 4 5

* Linear coupling between inductors, with coupling factor = 1
Kn_K1 L_Lp L_Ls1 L_Ls2 1

* Inductors
L_Lp 2 Lp_pos 1000
L_Ls1 4 5 50
L_Ls2 3 4 50

* Resistors to prevent DC shorts (in spice)
R_R1 1 Lp_pos 1k
R_R2 4 5 1k
R_R3 3 4 1k

.ENDS
